US05120752
To a solution of 4-bromophenol (1.71 g, 9.91 mmol) in DMSO (40 mL) was added potassium t-butoxide (1.17 g, 10.4 mmol) and the mixture was stirred for 20 mins. Tetrahydro-2-(2-bromoethoxy-2H-pyran (2.18 g, 10.4 mmol) in DMSO (10 mL) was added dropwise and the reaction was stirred for 1 hr. It was then diluted with brine (100 mL) and extracted with ethylacetate (3×100 mL). The organics were combined, dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, hexanes:ether, 85:15) to afford tetrahydro-2-(2-(4-bromophenoxy)ethoxy)-2H-pyran (2.52 g, 85%) as a colorless oil.

reactant | 4-bromophenol | 9.91 mmol, 1.71 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium t-butoxide | 10.4 mmol, 1.17 g | CC(C)([O-])C.[K+]
reactant | 2-bromoethoxy-2H-pyran | 10.4 mmol, 2.18 g | BrCCOC1OC=CC=C1 | C7H9BrO2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | brine | 100 mL | [Cl-].[Na+].O
product | tetrahydro-2-(2-(4-bromophenoxy)ethoxy)-2H-pyran | 2.52 g, 85% | BrC1=CC=C(OCCOC2OCCCC2)C=C1 | C13H17BrO3
